US08349829B2
1.B.i. Trans-(4-vinyl-cyclohexyl)-carbamic acid tert-butyl ester
tBuOK (13.78 g, 122.7 mmol) was added in one portion to a white suspension of methyl triphenylphosphonium bromide (43.85 g, 122.7 mmol) in THF (145 mL) at rt under nitrogen. The resulting suspension was stirred for 1 h at rt and a solution of trans-(4-formyl-cyclohexyl)-carbamic acid tert-butyl ester (13.95 g, 61.37 mmol) in THF (40 mL) was added. The mixture was stirred 30 min at rt. A 10% NaHSO4 solution (240 mL) was added and the mixture was diluted with EA (500 mL). The two layers were decanted and the aq. layer was extracted once with EA (250 mL). The combined org. layers were washed with brine, dried over Na2SO4, filtered and concentrated to dryness. The residue was quickly filtered (EA-Hept 1-2) to afford the title compound as a white solid (13.58 g).

reactant | tBuOK | 122.7 mmol, 13.78 g | C(C)(C)(C)O[K]
reactant | trans-(4-formyl-cyclohexyl)-carbamic acid tert-butyl ester | 61.37 mmol, 13.95 g | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)C=O)=O | C12H21NO3
reactant | NaHSO4 | 240 mL | OS(=O)(=O)[O-].[Na+]
catalyst | methyl triphenylphosphonium bromide | 122.7 mmol, 43.85 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 145 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | EA | 500 mL | CC(OCC)=O | C4H8O2
product | Trans-(4-vinyl-cyclohexyl)-carbamic acid tert-butyl ester | 13.58 g | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)C=C)=O | C13H23NO2
